US08865130B2
To a stirred solution of indomethacin (3.57 g, 10 mmol) in DMF was added 4-hydroxybutylamine (4.64 g), HOBt (2.02 g, 15 mmol), DIPEA (3.88 g, 30 mmol), EDCI (2.10 g, 11 mmol) at 25° C. The resultant solution was stirred for 16 h at 25° C. Removal of solvent in vacuo afforded a residue, where 100 mL water was added and extracted with EtOAc (3×75 mL). Combined organic layers were dried over Na2SO4. Solvent was evaporated completely and the obtained mass was dissolved in CH2Cl2 (40 mL), then HCl (gas) was bubbled for 2 h at 25° C. Removal of solvent in vacuo afforded a yellow residue, where n-hexane was added (20 mL) and stirred for 30 min to a make good slurry, which was filtered to afford the desired N-(4-hydroxybutyl)-2-[1-(4-chlorobenzoyl)-5-methoxy-2-methyl-1H-indol-3-yl]acetamide as yellow solid (2.5 g, 70%). 1H NMR (500 MHz, DMSO-d6) δ 1.44-1.52 (m, 2H, CCH2CC), 1.53-1.59 (m, 2H, CCCH2C), 2.23 (s, 3H, CH3), 3.03-3.08 (m, 2H, CH2CCC), 3.52 (s, 2H, CH2CO), 3.75 (s, 3H, OCH3), 3.77-3.78 (m, 2H, CCCCH2), 4.53 (br s, 1H, OH), 6.684 (dd, J=9, 2.4 Hz, 1H, indolyl H-6), 6.916 (d, J=9 Hz, 1H, indolyl H-7), 7.144 (d, J=2.4 Hz, 1H, indolyl H-4), 7.64 (d, J=8.7 Hz, 2H, p-chlorobenzoyl H-3, H-5), 7.67 (d, J=8.7 Hz, 2H, p-chlorobenzoyl H-2, H-6), 8.24 (br s, 1H, NHCO). Mass (ESI) (M+Na) calcd for C23H25ClN2O4Na 451.15; found 451.04.

reactant | indomethacin | 10 mmol, 3.57 g | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | 4-hydroxybutylamine | 4.64 g | OCCCCN | C4H11NO
reactant | HOBt | 15 mmol, 2.02 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 30 mmol, 3.88 g | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 11 mmol, 2.10 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-hydroxybutyl)-2-[1-(4-chlorobenzoyl)-5-methoxy-2-methyl-1H-indol-3-yl]acetamide | 2.5 g, 70% | OCCCCNC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O | C23H25ClN2O4
